US07982053B2
In an oven-dried 100 ml flask was dissolved 3,3-dimethyl-L-prolinamide (0.0174 mol, 2.46 g), (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid (WO 2003101442, 0.0174 mol, 5.30 g), and 1-hydroxy-7-azabenzotriazole (0.0191 mol, 2.60 g) in 25 ml DMF with stirring under argon. To this solution was added N-methylmorpholine (0.0522 mol, 5.28 g) followed by 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.0191 mol, 3.67 g). The reaction was stirred at 20° C. for 16 hr after which time it was diluted with 300 ml water and extracted with ethylacetate (3×100 ml). The combined organics were washed with 100 ml 1M HCl followed by brine. The organics were dried over MgSO4, filtered and concentrated to a yellow oil and purified on 90 g silica (chloroform/methanol/water), yielding 4.72 g (63%) of 1-[(2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoyl]-3,3-dimethyl-L-prolinamide as a white solid. LCMS (ESI+)=430 m/z (MH+). 1H NMR (400 MHz, CDCl3)— rotomers δ 8.20-7.86 (m, 1H), 7.49-7.30 (m, 5H), 6.01-5.50 (m, 2H), 5.05-4.70 (m, 2H), 3.89-3.56 (m, 4H), 3.14-2.90 (m, 2H), 2.16-2.05 (m, 1H), 1.89-1.40 (m, 10H), 1.13-1.06 (m, 6H), 1.02-0.84 (m, 2H).

reactant | 3,3-dimethyl-L-prolinamide | 0.0174 mol, 2.46 g | CC1([C@H](NCC1)C(=O)N)C | C7H14N2O
reactant | (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid | 0.0174 mol, 5.30 g | C1(CCCC1)C[C@@H](C(=O)O)CN(OCC1=CC=CC=C1)C=O | C17H23NO4
reactant | 1-hydroxy-7-azabenzotriazole | 0.0191 mol, 2.60 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-methylmorpholine | 0.0522 mol, 5.28 g | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.0191 mol, 3.67 g | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | water | 300 ml | O | H2O
product | 1-[(2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoyl]-3,3-dimethyl-L-prolinamide | 4.72 g, 63% | C1(CCCC1)C[C@@H](C(=O)N1[C@H](C(=O)N)C(CC1)(C)C)CN(OCC1=CC=CC=C1)C=O | C24H35N3O4
